US04511504
Benzyl-2-bromo-4,4-dimethylpentanoate (20 g) in dry dimethyl sulphoxide (250 ml) was treated with D-alanine methylester hydrochloride (9.33 g), N-methyl morpholine (6.78 g) and tetrabutyl ammonium iodide (24.7 g) at 90° under an atmosphere of argon for 2 days. The reaction mixture was allowed to cool to room temperature, poured into water (500 ml) and the products recovered by extraction into dichloromethane (3×250 ml). The material isolated from the organic extracts was purified by chromatography on silica developed in a gradient of hexane-ether. Elution with 30% ether-hexane afforded benzyl 4,4-dimethylpent-2-enoate (14 g). Elution with 40% ether in hexane afforded the title compound (350 mg) as a gum; (Found: [m+1]+ =322.2022. C18H27N1O4 requires [m+1]+ =322.2018); νmax (film) 1735 cm-1 ; δ(CDCl3) 0.90 (9H,s,C(CH3)3); 1.28 (3H,d,J=7 Hz CHCH3); 2.46 and 2.68 (2H, each dd,J=12 and 5 Hz,CH2 (CH3)3); 3.30 (1H,q,J=5 Hz CH--CH3); 3.36 (1H,t,J=5 Hz, CH--CH2); 3.66 (3H,s,OCH3); 5.12 (2H,s,OCH2) and 7.36 (5H,s,C6H5). Elution with 45% ether in hexane afforded benzyl 2-(R)-N-(1-(R)-methoxycarbonylethyl)-amino-4,4-dimethylpentanoate (340 mg); (Found: [m+1]+ =322.2022. C11H27NO4 requires 322.2018); νmax (film) 3360 and 1735 cms-1 ; δ(CDCl3) 0.90 (9H,s, C(CH3)3); 1.28 (3H,d,J=6 Hz, CHCH3); 1.44 and 1.72 (2H, each dd,J=5 and 12.5 Hz,CH2); 3.32 (1H,q,J=7 Hz, CHCH3); 3.44 (1H,t,J=6 Hz, CHCH2); 3.69 (3H,s,OCH3), 5.24 (2H,s,OCH2) and 7.36 (5H,m,C6H5).

reactant | Benzyl-2-bromo-4,4-dimethylpentanoate | 20 g | C(C1=CC=CC=C1)OC(C(CC(C)(C)C)Br)=O | C14H19BrO2
reactant | D-alanine methylester hydrochloride | 9.33 g | Cl.COC([C@H](N)C)=O
reactant | N-methyl morpholine | 6.78 g | CN1CCOCC1 | C5H11NO
reactant | water | 500 ml | O | H2O
solvent | dimethyl sulphoxide | 250 ml | CS(=O)C | C2H6OS
catalyst | tetrabutyl ammonium iodide | 24.7 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | benzyl 4,4-dimethylpent-2-enoate | 14 g | CC(C=CC(=O)OCC1=CC=CC=C1)(C)C | C14H18O2
